US07732459B2
Step 7: 7-Acetyl-5-(3-bromopropylidene)-5,11-dihydro[1]benzoxepino[2,3-b]pyridine
A dry 3 L three-necked, round-bottomed flask was fitted with a magnetic stirring bar, a glass stopper, a rubber septum, and an argon inlet. Under an argon atmosphere, 94.0 g. of 5-(3-Bromopropylidene)-5,11-dihydro[1]benzoxepino[2,3-b]pyridine (0.30 mole) and 900 mL of dry dichloromethane were added to the flask and the flask was cooled with an ice bath. To the solution was slowly added 78.5 g. of aluminum chloride (0.83 mole), followed by 17.8 mL of acetyl chloride (0.25 mole), and the mixture was stirred for an hour at 0° C. The reaction mixture was poured to 1500 g of ice, and the layers were separated. The aqueous layer was extracted with three 400 mL portions of ethyl acetate. Dichloromethane layer and the organic extracts were combined and washed successively with 1 IL of saturated aqueous sodium bicarbonate and 1 L of saturated aqueous sodium chloride. The organic solution was dried with anhydrous magnesium sulfate, filtered, and evaporated (aspirator vacuum, ca. 30° C.). The oily residue was chromatographed on 800 g. of Silica gel 60 by eluting with 5:1-1:1 (v/v) hexane-ethyl acetate mixture. The elution was evaporated, giving the titled compound as a pale yellow solid.

reactant | 5-(3-Bromopropylidene)-5,11-dihydro[1]benzoxepino[2,3-b]pyridine | 0.30 mole | BrCCC=C1CC2=C(OC3=NC=CC=C31)C=CC=C2 | C16H14BrNO
reactant | aluminum chloride | 0.83 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.25 mole, 17.8 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 900 mL | ClCCl | CH2Cl2
product | 7-Acetyl-5-(3-bromopropylidene)-5,11-dihydro[1]benzoxepino[2,3-b]pyridine | C(C)(=O)C1=CC=CC2=C1CC(C=1C(=NC=CC1)O2)=CCCBr | C18H16BrNO2
